US07129235B2
1-Thiazol-2-yl-1,2,3,6-tetrahydro-pyridine-4-carboxylic acid
A solution of 2-chloro-pyridine-3-sulfonic acid dimethylamide (1.18 mmol) and isoguvacine, sodium salt (2.19 mmol) in THF (0.5 mL) and water (2 mL) was stirred at 90° C. for 22 hours, acidified (pH˜1) with TFA, and extracted with CH2Cl2. The organic layer was dried (Na2SO4), concentrated, and purified by flash chromatography (5% MeOH/CH2Cl2) and trituration (Et2O) to provide as a white solid. 1H NMR (300 MHz, CD3OD) δ 8.47 (dd, J=1.7, 4.8 Hz, 1H), 8.22 (dd, J=1.7, 7.8 Hz, 1H), 7.22 (dd, J=4.8, 7.8 Hz, 1H), 7.03 (sept, J=1.7 Hz, 1H), 3.99 (q, J=3.0 Hz, 2H), 3.40 (t, J=5.6 Hz, 2H), 2.73 (s, 6H), 2.56 (m, 2 H).

reactant | 2-chloro-pyridine-3-sulfonic acid dimethylamide | 1.18 mmol | CN(S(=O)(=O)C=1C(=NC=CC1)Cl)C | C7H9ClN2O2S
reactant | isoguvacine | C1CNCC=C1C(=O)O | C6H9NO2
reactant | sodium | 2.19 mmol | [Na] | Na
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 1-Thiazol-2-yl-1,2,3,6-tetrahydro-pyridine-4-carboxylic acid | S1C(=NC=C1)N1CCC(=CC1)C(=O)O | C9H10N2O2S
